US07179912B2
A solution of trifluoromethanesulfonic acid 5-hydroxy-4-oxo-2-phenyl-4H-chromen-7-yl ester (130 mg, 0.337 mmol), piperidine (0.040 mL, 0.40 mmol), tris(dibenzylideneacetone) dipalladium(0) (15 mg, 0.017 mmol), biphenyl-2-yl-di-tert-butyl-phosphane (20 mg, 0.067 mmol), and tripotassium phosphate (K3PO4) (143 mg, 0.674 mmol) in THF (2 mL) was heated to reflux for 24 h, then cooled to room temperature for 24 h. The reaction mixture was filtered through a ¾″ silica gel (60 Å) plug. The plug was washed with EtOAc (75 mL), and the filtrate concentrated. The concentrate was purified via Biotage chromatography eluting with 5% EtOAc/hexanes to yield 18 mg (17%) of 5-hydroxy-2-phenyl-7-piperidin-1-yl-chromen-4-one.

reactant | trifluoromethanesulfonic acid 5-hydroxy-4-oxo-2-phenyl-4H-chromen-7-yl ester | 0.337 mmol, 130 mg | OC1=C2C(C=C(OC2=CC(=C1)OS(=O)(=O)C(F)(F)F)C1=CC=CC=C1)=O | C16H9F3O6S
reactant | piperidine | 0.40 mmol, 0.040 mL | N1CCCCC1 | C5H11N
reactant | biphenyl-2-yl-di-tert-butyl-phosphane | 0.067 mmol, 20 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
reactant | tripotassium phosphate | 0.674 mmol, 143 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.017 mmol, 15 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 5-hydroxy-2-phenyl-7-piperidin-1-yl-chromen-4-one | 18 mg, 17% | OC1=C2C(C=C(OC2=CC(=C1)N1CCCCC1)C1=CC=CC=C1)=O | C20H19NO3
